US08455488B2
Synthesis of 1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(pyridin-4-ylmethyl)urea (Compound II-82)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic acid (Compound VI-10) 67 mg (0.30 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(3-(pyridin-4-ylmethyl)ureidooxy)acetic acid | 0.30 mmol, 67 mg | N1=CC=C(C=C1)CNC(NOCC(=O)O)=O | C9H11N3O4
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | 0.20 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C31H42N2O4
product | 1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(pyridin-4-ylmethyl)urea | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)NC(CONC(=O)NCC1=CC=NC=C1)=O | C40H51N5O7
